US06822097B1
{4-[4-(2-Oxo-1,2-dihydro-quinolin-3-yl)-thiazol-2-yl]-phenyl}-carbamic acid tert-butyl ester
A solution of 4-cyano-tert-butyloxycarbonylaniline (2.20 g, 10.0 mmol) in 20 mL of pyridine and 5 mL of TEA was purged with H2S gas for 7.0 h. Solvents were removed under vacuum. The resulting crude 4-Boc-aminobenzene-thiocarboxamide (yellow residue, 70% purity) was used directly in the next step. A solution of 4-Bocamino-benzenethiocarboxamide (205 mg, 70% pure, 0.57 mmol) and 3-(2-bromoacetyl)hydroquinolin-2-one (Example 27b, 78 mg, 0.29 mmol) in 50 mL of MeOH was heated at reflux for 4 h. After cooling to RT, the precipitates were collected by filtration to provide the title compound as an off-white solid. MS m/z: 420.2 (M+1). HRMS m/z: 420.1358 (M+H+, C23H21N3O3S Calc'd 420.1376).

reactant | 4-cyano-tert-butyloxycarbonylaniline | 10.0 mmol, 2.20 g | C(#N)C1=CC=C(NC(=O)OC(C)(C)C)C=C1 | C12H14N2O2
reactant | H2S | S | H2S
reactant | 4-Bocamino-benzenethiocarboxamide | 0.57 mmol, 205 mg | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)C(N)=S | C12H16N2O2S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | 50 mL | CO | CH4O
product | {4-[4-(2-Oxo-1,2-dihydro-quinolin-3-yl)-thiazol-2-yl]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)C=1SC=C(N1)C=1C(NC2=CC=CC=C2C1)=O)=O | C23H21N3O3S
